US07786165B2
N,N-diethyl-2-[(3′-formyl-2,6-dimethylbiphenyl-4-yl)oxy]acetamide
To a solution of 4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde (0.905 g, 4.00 mmol) and 2-chloro-N,N-diethylacetamide (0.748 g, 5.00 mmol) in acetone (10 mL) was added potassium carbonate (0.663 g, 4.80 mmol), and the mixture was heated under reflux for 2 hr under a nitrogen atmosphere. The reaction mixture was concentrated under reduced pressure, water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30%-70% ethyl acetate/hexane) to give the title compound (0.729 g, yield 54%) as a yellow oil.

reactant | 4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde | 4.00 mmol, 0.905 g | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)C=O)C | C15H14O2
reactant | 2-chloro-N,N-diethylacetamide | 5.00 mmol, 0.748 g | ClCC(=O)N(CC)CC | C6H12ClNO
reactant | potassium carbonate | 4.80 mmol, 0.663 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | N,N-diethyl-2-[(3′-formyl-2,6-dimethylbiphenyl-4-yl)oxy]acetamide | 0.729 g, yield 54% | C(C)N(C(COC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)C=O)C)=O)CC | C21H25NO3
